Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[O:8]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],-2.28064069898
[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:6].[O:1][O:2][C@@:3]([H:4])([C:5]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12],1.93979624558
[C:2]([H:3])=[C:4]([H:5])[O:6][H:7].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][H:7],-6.059989932330001
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.10158852132
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[O:9].[H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],-1.8156022167400003
[C:11]([H:12])[H:13].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9][H:10]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13],-6.607286684299999
[C:2]=[C:3]([O:4][H:5])[O:6][C:7]#[C:8][H:9].[H:1]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]#[C:8][H:9],-4.810984438949999
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[O:8][H:9]>>[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7].[O:8][H:9],3.63292515927
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7].[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.11997688854
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:12]([O:11][C:9][H:10])[H:13]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@:9]1([H:10])[O:11][C:12]1[H:13],-1.97223936152
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:11]([H:12])[H:13].[O:9][H:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-2.82036402362
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.9292612493
[H:1][C:2][O:3][C:4]([H:5])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.14378864204
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[C:10][O:11][H:12],3.96308227376
[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],6.18048347177
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])=[C:8]([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-1.44798328259
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[O:1]=[C:2][H:3],1.08027074926
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],4.48862446784
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10][H:11]>>[H:11].[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10],3.93485262677
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])([H:4])[O:5][C:6][C@@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.50901617192
[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-0.427497620001
[H:7].[O:1][C:2]([C:3]#[C:4][H:5])=[C:6]=[C:8]([H:9])[H:10]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-4.72228918315
[C:11][H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],-6.02297969239
[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:12][H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.7064282519799998
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-1.72042199738
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][O:2],5.38907386793
[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.94909682727
[H:1][C:2]([H:3])([H:4])[C:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.746451458969999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.4720299343599998
[O:1]=[C:2]([C:3]#[C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:10].[O:1]=[C:2]([C:3]#[C:4][O:5][H:6])[C:7]([H:8])[H:9],4.31446621971
